US09034880B2
tert-butyl 1-(3-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propanoyl)piperidin-4-ylcarbamate (50 mg) was stirred with trifluoroacetic acid (2 ml) in dichloromethane (2 ml) for 16 h at 25° C. to obtain 10 mg of 1-(4-aminopiperidin-1-yl)-3-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propan-1-one as di-TFA salt after purification by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | tert-butyl 1-(3-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propanoyl)piperidin-4-ylcarbamate | 50 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC(=O)N2CCC(CC2)NC(OC(C)(C)C)=O)CC1 | C26H38N4O3
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-(4-aminopiperidin-1-yl)-3-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propan-1-one | 10 mg | NC1CCN(CC1)C(CCN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)=O | C21H30N4O
